US06518285B2
3-Pyridine Propionyl Chloride:
To a solution of 300 mg (1.99 mmol) 3-pyridine propionic acid in 10 mL CH2Cl2 was added one drop DMF and 2.3 mL (4.56 mmol) oxalyl chloride, and the mixture stirred at rt for 4 h. The volatiles were evaporated under reduced pressure and the material used crude in the following procedure.

reactant | 3-pyridine propionic acid | 1.99 mmol, 300 mg | N1=CC(=CC=C1)CCC(=O)O | C8H9NO2
reactant | oxalyl chloride | 4.56 mmol, 2.3 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
catalyst | DMF | one drop | CN(C)C=O | C3H7NO
product | 3-Pyridine Propionyl Chloride | N1=CC(=CC=C1)CCC(=O)Cl | C8H8ClNO
